US08053577B2
2-Bromo-3-phenylprop-2-enal
1.33 g (10 mmol) cinnamaldehyde was dissolved in 5 mL glacial acetic acid and cooled on an ice-water bath. 1.62 g bromine was added, and anhydrous K2CO3 was then added, and it was stirred until no gas was evolving. After refluxing for 30 min, the reaction mixture was poured into 100 mL cold water with stirring, extracted with 50 mL ethyl ether three times. The combined ethyl ether layers were washed with water one time, saturated aqueous NaCl solution one time, dried over MgSO4 for 2 hours, filtrated, and the filtrate was dried under vacuum, and washed with anhydrous ethyl ether: petroleum ether (1:1) to give the title compound as light yellow powder.

reactant | cinnamaldehyde | 10 mmol, 1.33 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | bromine | 1.62 g | BrBr | Br2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-3-phenylprop-2-enal | BrC(C=O)=CC1=CC=CC=C1 | C9H7BrO
